US06310211B1
5-Fluoro-8-hydroxyquinoline-7-carboxylic Acid (Formula A-2 wherein R1 is —F and R2 is —H) Refer to Chart A
5-Fluoro-8-hydroxyquinoline (3.00 g) and potassium carbonate (7.62 g) are mixed together in a stainless steel bomb and heated to 170° C. under 800 p.s.i. CO2 for 7 days. The reaction is cooled and the resulting solid is partitioned between 800 mL water and 400 mL EtOAc in a separatory funnel. The aqueous layer is washed with EtOAc (3×400 mL). The aqueous layer is then acidified to pH 4.5 with conc. HCl and cooled. The resulting solid is collected, washed with water and dried. The crude product is triturated with i-PrOH and dried to yield 1.67 g of the title product as a brown solid.

reactant | 5-Fluoro-8-hydroxyquinoline | 3.00 g | FC1=C2C=CC=NC2=C(C=C1)O | C9H6FNO
reactant | potassium carbonate | 7.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | CO2 | C(=O)=O | CO2
product | 5-Fluoro-8-hydroxyquinoline-7-carboxylic Acid | 1.67 g | FC1=C2C=CC=NC2=C(C(=C1)C(=O)O)O | C10H6FNO3
